* Transient Testbench for Radix-4 Booth Selector Cell
.include "schematic.spice"
VVDD VDD 0 DC 1.8V
VVSS VSS 0 DC 0.0V
VYP Y_PLUS 0 PULSE(0 1.8 100ps 50ps 50ps 4ns 8ns)
VYC Y_CURR 0 PULSE(0 1.8 200ps 50ps 50ps 2ns 4ns)
VYM Y_PREV 0 PULSE(0 1.8 300ps 50ps 50ps 1ns 2ns)
XDUT Y_PLUS Y_CURR Y_PREV SINGLE DOUBLE NEG VDD VSS BOOTH_ENCODER
.tran 1ps 10ns
.measure tran tpd_yplus_to_neg TRIG V(Y_PLUS)=0.9 RISE=1 TARG V(NEG)=0.9 RISE=1
